US07863291B2
Ethyl 7-chloro-5-methylthiazolo[5,4-d]pyrimidin-2-ylcarbamate (300 mg, 1.100 mmol) was suspended in a 25% w/w solution of sodium methoxide in methanol (5 mL, 23.14 mmol) and the mixture was refluxed overnight. The mixture was cooled to ambient temperature, diluted with water and extracted with chloroform (4×). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford 7-methoxy-5-methylthiazolo[5,4-d]pyrimidin-2-amine (120 mg, 0.612 mmol, 55.6% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.71 (s, 2 H) 3.98 (s, 3 H) 2.52 (s, 3 H).

reactant | Ethyl 7-chloro-5-methylthiazolo[5,4-d]pyrimidin-2-ylcarbamate | 1.100 mmol, 300 mg | ClC=1C2=C(N=C(N1)C)SC(=N2)NC(OCC)=O | C9H9ClN4O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 23.14 mmol, 5 mL | CO | CH4O
solvent | water | O | H2O
product | 7-methoxy-5-methylthiazolo[5,4-d]pyrimidin-2-amine | 0.612 mmol, 120 mg, 55.6% yield | COC=1C2=C(N=C(N1)C)SC(=N2)N | C7H8N4OS
